US07368578B2
A mixture of (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenethioamide (0.46 g), 1-bromo-2-propanone (0.13 g) and ethanol (30 mL) was heated under reflux for 1 hr. After concentration of the reaction mixture, saturated aqueous sodium hydrogen carbonate was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 2-(2-furyl)-4-({2-methoxy-4-[({4-[(E)-2-(4-methyl-1,3-thiazol-2-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]phenoxy}methyl)-5-methyl-1,3-oxazole as pale-yellow crystals (0.25 g, yield 51%) from a fraction eluted with ethyl acetate-hexane (1:1, v/v). Recrystallization from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 130-131° C.

reactant | (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenethioamide | 0.46 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/C(N)=S)C2=CC=CC=C2)C=C1)OC)C | C29H26N4O5S
reactant | 1-bromo-2-propanone | 0.13 g | BrCC(C)=O | C3H5BrO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-(2-furyl)-4-({2-methoxy-4-[({4-[(E)-2-(4-methyl-1,3-thiazol-2-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]phenoxy}methyl)-5-methyl-1,3-oxazole | 0.25 g, yield 51% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)COC1=NN(C=C1\C=C\C=1SC=C(N1)C)C1=CC=CC=C1)OC)C | C32H28N4O5S
